US06800590B2
1.688 g (9.38 mmol) p-acetamino nitrobenzene is dissolved in 10 ml of anhydrous methanol. Suitable amount, i.e., 0.1266 g Raney-Ni and 0.83 g (14.1 mmol, 85%) hydrazine hydrate is added to the solution. The mixture is reacted for 6 hours, and then suction filtered. The filtrate is concentrated to give a product, p-acetamino aniline. The yield reaches the theoretical value.

reactant | p-acetamino nitrobenzene | 9.38 mmol, 1.688 g | N(C(=O)C)C1=CC=C(C=C1)[N+](=O)[O-] | C8H8N2O3
reactant | hydrazine hydrate | 14.1 mmol, 0.83 g | O.NN
solvent | methanol | 10 ml | CO | CH4O
catalyst | Ni | [Ni] | Ni
product | p-acetamino aniline | N(C(=O)C)C1=CC=C(N)C=C1 | C8H10N2O
